US04528296
Following the procedure of Example 2, but substituting an equivalent amount of methyl 4-(2-acetylthiomethyl-propionamido)-nicotinate, obtained as disclosed in Example 4, for methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate, methyl 4-(2-mercaptomethyl-propionamido)-nicotinate is obtained, m.p. 54°-56° C., from petroleum ether.

reactant | methyl 4-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=CC=NC=C1C(=O)OC)C | C13H16N2O4S
reactant | methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=C(C(=O)OC)C=CC=N1)C | C13H16N2O4S
product | methyl 4-(2-mercaptomethyl-propionamido)-nicotinate | SCC(C(=O)NC1=CC=NC=C1C(=O)OC)C | C11H14N2O3S
